US07655657B2
5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole
5-bromo-1H-indazole (Ref. US 2003199511, 9.45 g, 48 mmol) was treated with bis(pinacolato)diboron (Aldrich, 15.5 g, 61 mmol) according to the procedure of Example 26A. The title product was purified by chromatography (SiO2, hexane:EtOAc, 90:10, Rf=0.6) to provide a solid (9.8 g, yield, 84%). 1H NMR (300 MHz, CD3OD) δ 1.36 (s, 12H), 7.51 (dt, J=8.48, 1.02 Hz, 1H), 7.73 (dd, J=8.48, 1.02 Hz, 1H), 8.08 (d, J=1.02 Hz, 1H), 8.23 (t, J=1.02 Hz, 1H) ppm. MS (DCI/NH3): m/z 245 (M+H)+.

reactant | 5-bromo-1H-indazole | 48 mmol, 9.45 g | BrC=1C=C2C=NNC2=CC1 | C7H5BrN2
reactant | bis(pinacolato)diboron | 61 mmol, 15.5 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | NH3 | N | H3N
product | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole | CC1(OB(OC1(C)C)C=1C=C2C=NNC2=CC1)C | C13H17BN2O2
